US04438201
Ten microliters of 0.2 M piperazine-N,N'-bis(2-ethanesulfonic acid) [=PIPES] buffer, pH 7.3, and 10 μl of 100 mM N-chloroacetyl-L-phenylalanine (adjusted to pH 6-7 with NaOH) are dissolved in 20 μl of water. After 10 μl of an enzyme solution (30-50 μg/ml) is added, the mixture is incubated at 37° C. for 15 minutes. Then, 50 μl of 50% acetic acid is added to stop the enzymatic reaction. The amount of L-phenylalanine produced from the substrate in the reaction solution is determined by the Yemm-Cocking ninhydrin colorimetric method (E. W. Yemm & E. C. Cocking: Analyst, Vol. 80, page 209, 1955) or with an amino acid automatic analyzer (Model 835-50, Hitachi Limited).

reactant | piperazine-N,N'-bis(2-ethanesulfonic acid) | 0.2 M, Ten microliters | C1CN(CCN1CCS(=O)(=O)O)CCS(=O)(=O)O | C8H18N2O6S2
reactant | N-chloroacetyl-L-phenylalanine | 100 mM, 10 μl, pH 6-7 | ClCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C11H12ClNO3
reactant | acetic acid | 50 μl | C(C)(=O)O | C2H4O2
solvent | water | 20 μl | O | H2O
product | L-phenylalanine | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
